US07119116B2
2-Amino-2-oxoethyl trans-3-[5-(6-methoxynaphthalen-1-yl)-1,3-dioxan-2-yl]propylcarbamate
20 g (66 mmol) of trans-3-[5-(6-methoxynaphthalen-1-yl)-1,3-dioxan-2-yl]propanamine, 64 g (198 mmol) of cesium carbonate and 73.14 g (198 mmol) of tetra-n-butylammonium iodide in suspension in 400 ml of N,N-dimethylformamide are introduced into a 1 l three-necked round-bottomed flask placed under an inert atmosphere. A stream of carbon dioxide is passed through the suspension, with vigorous stirring, for 2 h. 18.5 g (198 mmol) of chloroacetamide in solution in 70 ml of N,N-dimethylformamide are then added dropwise, and the stream of carbon dioxide is maintained for 5 h, and the stirring is continued at ambient temperature overnight. The salts are separated by filtration, the filtrate is concentrated under reduced pressure, the residue is taken up with ethyl acetate and water, and the organic phase is separated and washed with a 0.1N aqueous hydrochloric acid solution, then a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution. The organic phase is dried over sodium sulfate and the filtrate is concentrated under reduced pressure, the residue is purified by chromatography on silica gel, eluting with a 95/5 mixture of ethyl acetate and methanol, and the solid obtained is recrystallized from ethyl acetate to obtain 6.5 g of pure product.

reactant | trans-3-[5-(6-methoxynaphthalen-1-yl)-1,3-dioxan-2-yl]propanamine | 66 mmol, 20 g | COC=1C=C2C=CC=C(C2=CC1)[C@H]1CO[C@@H](OC1)CCCN | C18H23NO3
reactant | cesium carbonate | 198 mmol, 64 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | chloroacetamide | 198 mmol, 18.5 g | ClCC(=O)N | C2H4ClNO
catalyst | tetra-n-butylammonium iodide | 198 mmol, 73.14 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-Amino-2-oxoethyl trans-3-[5-(6-methoxynaphthalen-1-yl)-1,3-dioxan-2-yl]propylcarbamate | 6.5 g | COC=1C=C2C=CC=C(C2=CC1)[C@H]1CO[C@@H](OC1)CCCNC(OCC(=O)N)=O | C21H26N2O6
